US08372841B2
N,N-Bis-(2-hydroxy-ethyl)-2-nitrobenzenesulfonamide
A solution of 2-nitrobenzenesulfonyl chloride (10.5 g, 47.6 mmol) in anhydrous methylene chloride (25 mL) was added dropwise with stirring to a 0° C. solution of diethanolamine (5.00 g, 47.6 mmol) and triethylamine (4.92 g, 47.6 mmol) in anhydrous methylene chloride (50 mL). Reaction stirred three hours at 0° C. and then overnight at room temperature. Reaction mixture concentrated under reduced pressure. Residue dissolved in ethyl acetate, washed with 1 N NaOH, saturated NaHCO3, and brine, dried over Na2SO4, filtered, and concentrated under reduced pressure. The residue was purified by normal phase HPLC on a Biotage pre-packed silica gel column eluting with ethyl acetate to afford the title compound. MS (ESI) m/z 291 (M+H)+.

reactant | 2-nitrobenzenesulfonyl chloride | 47.6 mmol, 10.5 g | [N+](=O)([O-])C1=C(C=CC=C1)S(=O)(=O)Cl | C6H4ClNO4S
reactant | diethanolamine | 47.6 mmol, 5.00 g | N(CCO)CCO | C4H11NO2
reactant | triethylamine | 47.6 mmol, 4.92 g | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 25 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 50 mL | C(Cl)Cl | CH2Cl2
product | N,N-Bis-(2-hydroxy-ethyl)-2-nitrobenzenesulfonamide | OCCN(S(=O)(=O)C1=C(C=CC=C1)[N+](=O)[O-])CCO | C10H14N2O6S
